US09216173B2
To a solution of 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (47.2 g, 437 mmol) and sodium acetate (36.2 g, 440 mmol) in acetic acid (750 mL) at 0° C. was added bromine (22.4 mL, 435 mmol). After 10 minutes, the reaction mixture was neutralized with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (5×200 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated under reduced pressure to afford 3-bromo-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole.

reactant | 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 437 mmol, 47.2 g | N=1N2C(=CC1)CCC2 | C6H8N2
reactant | sodium acetate | 440 mmol, 36.2 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 435 mmol, 22.4 mL | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 750 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | BrC1=C2N(N=C1)CCC2 | C6H7BrN2
